### PR TITLE
Totally bounded sets are propositionally decidable

### PR DESCRIPTION
**Pull request by lowasser**
...and so are lots of other simple types for which that principle wasn't written down yet?

### CODE REVIEW

File: src/metric-spaces/approximations-metric-spaces.lagda.md [hunk 1]
```diff
@@ -243,24 +250,29 @@ module _
       is-approximation-im-isometric-equiv-approximation-Metric-Space)
 ```
 
-### If a metric space is inhabited, so is any approximation
+### A metric space and any approximation of it are coinhabited
```
Comment (fredrik-bakke) [inline src/metric-spaces/approximations-metric-spaces.lagda.md:254]: The reader might not know what coinhabitedness means, so I suggest adding an explanation as well:

```suggestion
### A metric space and any approximation of it are coinhabited

A metric space is inhabited if and only if any approximation of it is inhabited.
```

File: src/metric-spaces/nets-metric-spaces.lagda.md [hunk 2]
```diff
@@ -90,28 +102,40 @@ module _
       is-approximation-subset-net-Metric-Space)
 ```
 
-### If a metric space is inhabited, so is any net on it
+### A metric space and any net for it are coinhabited
+
```
Comment (fredrik-bakke) [inline src/metric-spaces/nets-metric-spaces.lagda.md:107]:
```suggestion
### A metric space and any net for it are coinhabited

A metric space is inhabited if and only if any net for it is inhabited.

```

File: src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md [hunk 3]
```diff
@@ -386,6 +397,23 @@ module _
...
+### It is decidable whether a totally bounded subset of `ℝ` is inhabited
+
+```agda
+module _
+  {l1 l2 l3 : Level}
+  (S : totally-bounded-subset-ℝ l1 l2 l3)
+  where
+
+  abstract
+    decide-is-inhabited-or-empty-totally-bounded-subset-ℝ :
```
Comment (fredrik-bakke) [inline src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md]:
```suggestion
    is-inhabited-or-empty-totally-bounded-subset-ℝ :
```

File: src/metric-spaces/nets-metric-spaces.lagda.md [hunk 4]
```diff
@@ -90,28 +102,40 @@ module _
...
-      is-inhabited-is-approximation-inhabited-Metric-Space X |X| ε
-        ( subset-net-Metric-Space X ε S)
-        ( is-approximation-subset-net-Metric-Space X ε S)
-
-  inhabited-finitely-enumerable-subtype-net-Metric-Space :
-    inhabited-finitely-enumerable-subtype l3 (type-Metric-Space X)
-  inhabited-finitely-enumerable-subtype-net-Metric-Space =
-    ( finitely-enumerable-subset-net-Metric-Space X ε S ,
-      is-inhabited-net-inhabited-Metric-Space)
+    decide-is-inhabited-or-empty-net-Metric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/nets-metric-spaces.lagda.md]:
```suggestion
    is-inhabited-or-empty-type-is-inhabited-or-empty-net-Metric-Space :
```

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 5]
```diff
@@ -180,3 +188,48 @@ pr1 (is-finite-and-inhabited-type-Type-With-Cardinality-ℕ-succ-ℕ n F) =
...
+  is-nonzero-is-inhabited-Fin _ H refl = rec-trunc-Prop empty-Prop (λ ()) H
+
+is-empty-is-zero-Fin : (n : ℕ) → is-zero-ℕ n → is-empty (Fin n)
+is-empty-is-zero-Fin _ refl ()
+```
+
+### The standard finite types are propositionally decidable
+
+```agda
+decide-is-inhabited-or-empty-Fin : (n : ℕ) → is-inhabited-or-empty (Fin n)
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md]:
```suggestion
is-inhabited-or-empty-Fin : (n : ℕ) → is-inhabited-or-empty (Fin n)
```

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 6]
```diff
@@ -180,3 +188,48 @@ pr1 (is-finite-and-inhabited-type-Type-With-Cardinality-ℕ-succ-ℕ n F) =
...
+```
+
+### The finite types are propositionally decidable
+
+```agda
+module _
+  {l : Level} (X : Finite-Type l)
+  where
+
+  decide-is-inhabited-or-empty-Finite-Type :
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md]:
```suggestion
  is-inhabited-or-empty-type-Finite-Type :
```

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 7]
```diff
@@ -180,3 +188,48 @@ pr1 (is-finite-and-inhabited-type-Type-With-Cardinality-ℕ-succ-ℕ n F) =
...
+is-empty-is-zero-Fin _ refl ()
+```
+
+### The standard finite types are propositionally decidable
+
+```agda
+decide-is-inhabited-or-empty-Fin : (n : ℕ) → is-inhabited-or-empty (Fin n)
+decide-is-inhabited-or-empty-Fin zero-ℕ = inr (λ ())
+decide-is-inhabited-or-empty-Fin (succ-ℕ n) =
+  inl (unit-trunc-Prop (neg-one-Fin n))
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md]: This should be formalized as a direct consequence of the fact that `Fin` is constructibly decidable

File: src/metric-spaces/inhabited-totally-bounded-subspaces-metric-spaces.lagda.md [hunk 8]
```diff
@@ -135,3 +141,25 @@ product-inhabited-totally-bounded-subspace-Metric-Space
...
+### It is decidable whether or not a totally bounded subspace of a metric space is inhabited
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level} (X : Metric-Space l1 l2)
+  (S : totally-bounded-subspace-Metric-Space l3 l4 X)
+  where
+
+  abstract
+    decide-is-inhabited-or-empty-totally-bounded-subspace-Metric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/inhabited-totally-bounded-subspaces-metric-spaces.lagda.md]:
```suggestion
    is-inhabited-or-empty-totally-bounded-subspace-Metric-Space :
```

File: src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md [hunk 9]
```diff
@@ -92,3 +97,29 @@ abstract
...
+
+### The finitely enumerable types are propositionally decidable
+
+```agda
+module _
+  {l : Level} (X : Finitely-Enumerable-Type l)
+  where
+
+  abstract
+    decide-is-inhabited-or-empty-Finitely-Enumerable-Type :
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md]:
```suggestion
    is-inhabited-or-empty-type-Finitely-Enumerable-Type :
```

Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md]: I think this result should instead be deduced as a direct consequence of the fact that the type is (merely) surjected onto by a (propositionally) decidable type.

File: src/metric-spaces/nets-metric-spaces.lagda.md [hunk 10]
```diff
@@ -90,28 +102,42 @@ module _
...
+    is-coinhabited-net-Metric-Space :
+      is-coinhabited (type-net-Metric-Space X ε S) (type-Metric-Space X)
+    is-coinhabited-net-Metric-Space =
+      is-coinhabited-approximation-Metric-Space
+        ( X)
+        ( ε)
+        ( approximation-net-Metric-Space X ε S)
+```
+
+### Given any net for a metric space `X`, it is propositionally decidable whether `X` is inhabited
```
Comment (fredrik-bakke) [inline src/metric-spaces/nets-metric-spaces.lagda.md]: Being inhabited is already a proposition

```suggestion
### Given any net for a metric space `X`, it is decidable whether `X` is inhabited
```

File: src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md [hunk 11]
```diff
@@ -155,8 +157,13 @@ module _
...
         ( inclusion-subset-ℝ S)
-        ( inhabited-finitely-enumerable-subtype-net-Metric-Space
-          ( metric-space-subset-ℝ S) |S| δ (M δ))
+        ( finitely-enumerable-subset-net-Metric-Space
+            ( metric-space-subset-ℝ S)
+            ( δ)
+            ( M δ) ,
+          backward-implication
+            ( is-coinhabited-net-Metric-Space (metric-space-subset-ℝ S) δ (M δ))
+            ( |S|))
```
Comment (fredrik-bakke) [inline src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md]: This was better before

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 12]
```diff
@@ -180,3 +189,49 @@ pr1 (is-finite-and-inhabited-type-Type-With-Cardinality-ℕ-succ-ℕ n F) =
...
+
+  is-inhabited-or-empty-type-Finite-Type :
+    is-inhabited-or-empty (type-Finite-Type X)
+  is-inhabited-or-empty-type-Finite-Type =
+    rec-trunc-Prop
+      ( is-inhabited-or-empty-Prop (type-Finite-Type X))
+      ( λ (n , Fin-n≃X) →
+        is-inhabited-or-empty-equiv' Fin-n≃X (is-inhabited-or-empty-Fin n))
+      ( is-finite-type-Finite-Type X)
+```
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md]: These results are about not-necessarily-inhabited finite types, so they should go in `standard-finite-types` and `finite-types` respectively

File: src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md (hunk 11 above)
Comment (fredrik-bakke) [reply src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md]: even though coinhabitedness is a stronger result, either direction is still useful, as demonstrated here, and can/should still be recorded.

File: src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md [hunk 13]
```diff
@@ -92,3 +97,23 @@ abstract
...
+  abstract
+    is-inhabited-or-empty-type-Finitely-Enumerable-Type :
+      is-inhabited-or-empty (type-Finitely-Enumerable-Type X)
+    is-inhabited-or-empty-type-Finitely-Enumerable-Type =
+      rec-trunc-Prop
+        ( is-inhabited-or-empty-Prop (type-Finitely-Enumerable-Type X))
+        ( λ (N , Fin-n↠X) →
+          is-inhabited-or-empty-surjection
+            ( Fin-n↠X)
+            ( is-inhabited-or-empty-Fin N))
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md]:
```suggestion
        ( λ (n , Fin-n↠X) →
          is-inhabited-or-empty-surjection
            ( Fin-n↠X)
            ( is-inhabited-or-empty-Fin n))
```

Comment (fredrik-bakke) [reply src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md]: since you use a lower case `n` in `Fin-n↠X`

File: src/metric-spaces/nets-metric-spaces.lagda.md (hunk 10 above)
Comment (lowasser) [reply src/metric-spaces/nets-metric-spaces.lagda.md]: I'm trying to reference https://unimath.github.io/agda-unimath/logic.propositionally-decidable-types.html?highlight=Propositionally#propositionally-decidable-types specifically, which seems to be setting up a different term?

Comment (lowasser) [reply src/metric-spaces/nets-metric-spaces.lagda.md]: Maybe that should be "`X` is propositionally decidable"?

Comment (fredrik-bakke) [reply src/metric-spaces/nets-metric-spaces.lagda.md]: sure

Comment (fredrik-bakke) [reply src/metric-spaces/nets-metric-spaces.lagda.md]: That is slightly more tidy, yes.

File: src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md [hunk 14]
```diff
@@ -399,6 +403,23 @@ module _
         is-infimum-inf-inhabited-totally-bounded-subset-ℝ)
 ```
 
+### It is decidable whether a totally bounded subset of `ℝ` is inhabited
```
Comment (fredrik-bakke) [inline src/real-numbers/inhabited-totally-bounded-subsets-real-numbers.lagda.md]:
```suggestion
### Any totally bounded subset of `ℝ` is propositionally decidable
```

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 15]
```diff
@@ -23,6 +29,7 @@ open import foundation.universe-levels
 
 open import univalent-combinatorics.dependent-pair-types
 open import univalent-combinatorics.finite-types
+open import univalent-combinatorics.standard-finite-types
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md]:
```suggestion
```

File: src/univalent-combinatorics/inhabited-finite-types.lagda.md [hunk 16]
```diff
@@ -8,12 +8,18 @@ module univalent-combinatorics.inhabited-finite-types where
...
+open import foundation.coproduct-types
+open import foundation.decidable-types
+open import foundation.empty-types
 open import foundation.equivalences
 open import foundation.function-types
 open import foundation.functoriality-dependent-function-types
 open import foundation.identity-types
 open import foundation.inhabited-types
+open import foundation.logical-equivalences
+open import foundation.propositional-truncations
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finite-types.lagda.md]:
```suggestion

open import foundation.equivalences
open import foundation.function-types
open import foundation.functoriality-dependent-function-types
open import foundation.identity-types
open import foundation.inhabited-types
```

File: src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md [hunk 17]
```diff
@@ -7,8 +7,10 @@ module univalent-combinatorics.inhabited-finitely-enumerable-types where
 <details><summary>Imports</summary>
 
 ```agda
+open import elementary-number-theory.equality-natural-numbers
 open import elementary-number-theory.natural-numbers
 
+open import foundation.coproduct-types
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md]:
```suggestion
open import elementary-number-theory.natural-numbers

```

File: src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md [hunk 18]
```diff
@@ -23,7 +25,10 @@ open import foundation.subtypes
 open import foundation.surjective-maps
 open import foundation.universe-levels
 
+open import logic.propositionally-decidable-types
+
 open import univalent-combinatorics.finitely-enumerable-types
+open import univalent-combinatorics.inhabited-finite-types
```
Comment (fredrik-bakke) [inline src/univalent-combinatorics/inhabited-finitely-enumerable-types.lagda.md]:
```suggestion
open import univalent-combinatorics.finitely-enumerable-types
```
